US08669234B2
4N HCl in dioxane (2 mL) was added to 3-(6-{4′-[2-(5-tert-Butoxycarbonyl-5-aza-spiro[2.4]hept-6-yl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (53 mg, 0.073 mmol) in 2 mL DCM and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated and dried overnight under vacuum. The residue was dissolved in DMF (1 mL) and to this solution was added 2-Methoxycarbonylamino-3-methyl-butyric acid (2.1 eq., 26.6 mg), 4-methylmorpholine (6 eq., 0.048 mL), followed by HATU (2 eq., 56 mg). Reaction mixture was stirred at 0° C. for 50 minutes. The reaction mixture was dissolved in ethyl acetate and washed with dilute sodium bicarbonate solution. The organic layer was dried (MgSO4), concentrated and purified by preparative reverse phase HPLC (GEMINI, 5 to 100% ACN/H2O+0.1% TFA). Product was lyophilized to give (1-{6-[5-(4′-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (Example DH) (41.6 mg, 53%).

reactant | HCl | 4N | Cl | ClH
reactant | 3-(6-{4′-[2-(5-tert-Butoxycarbonyl-5-aza-spiro[2.4]hept-6-yl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.073 mmol, 53 mg | C(C)(C)(C)OC(=O)N1C2CCC(C1C1=NC3=C(N1)C=C(C=C3)C3=CC=C(C=C3)C3=CC=C(C=C3)C=3NC(=NC3)C3N(CC1(CC1)C3)C(=O)OC(C)(C)C)C2 | C44H50N6O4
reactant | 2-Methoxycarbonylamino-3-methyl-butyric acid | 26.6 mg, 2.1 eq. | COC(=O)NC(C(=O)O)C(C)C | C7H13NO4
reactant | 4-methylmorpholine | 0.048 mL, 6 eq. | CN1CCOCC1 | C5H11NO
reactant | HATU | 56 mg, 2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (1-{6-[5-(4′-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 41.6 mg, 53% | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC2=C(N=C(N2)C2N(C3CCC2C3)C(C(C(C)C)NC(=O)OC)=O)C=C1)=O | C48H56N8O6
